US07834044B2
(b) 1-(1H-Imidazol-2-ylmethyl)-5-phenoxy-1,2,3,4-tetrahydro-quinoline
Prepared analogously to Example 1, from 5-phenoxy-1,2,3,4-tetrahydro-quinoline, imidazole-2-carboxaldehyde, zinc chloride and sodium cyanoborohydride in methanol. MS (ISP): 306.3 ([M+H]+).

reactant | 5-phenoxy-1,2,3,4-tetrahydro-quinoline | O(C1=CC=CC=C1)C1=C2CCCNC2=CC=C1 | C15H15NO
reactant | imidazole-2-carboxaldehyde | N1C(=NC=C1)C=O | C4H4N2O
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | methanol | CO | CH4O
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | 1-(1H-Imidazol-2-ylmethyl)-5-phenoxy-1,2,3,4-tetrahydro-quinoline | N1C(=NC=C1)CN1CCCC2=C(C=CC=C12)OC1=CC=CC=C1 | C19H19N3O
